US08314087B2
2-Chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzonitrile
See example 75 for a general synthesis. To a solution of 2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzamide (120 mg, 266 μmol) in pyridine (10763 μL, 133075 μmol) was added thionyl chloride (194 μL, 2661 μmol). The reaction was then stirred overnight at 23° C. for 18 hours. The reaction was then chilled to 0° C., and quenched with sat. NH4Cl. The organic contents were extracted with DCM (30 mL), separated, dried over MgSO4, then concentrated to a solid under reduced pressure. The product was then purified on silica (12 g) eluting with 3>5% of NH3 in MeOH/DCM and isolated as an off white solid. MS (ESI pos. ion) m/z: (MH+); calc'd for C23H17ClN4O3: 432. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.92 (s, 3 H) 4.67 (t, J=5.02 Hz, 2 H) 4.81 (t, J=5.27 Hz, 2 H) 6.65 (d, J=5.52 Hz, 1 H) 6.99 (dd, J=9.29, 2.26 Hz, 1 H) 7.09 (d, J=9.54 Hz, 1 H) 7.30 (s, 1 H) 7.65 (d, J=9.54 Hz, 2 H) 7.68-7.74 (m, 1 H) 7.87 (s, 1 H) 7.95 (d, J=9.54 Hz, 1 H) 8.64 (d, J=5.02 Hz, 1 H).

reactant | 2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzamide | 266 μmol, 120 mg | ClC1=C(C(=O)N)C=CC(=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC | C23H19ClN4O4
reactant | pyridine | 133075 μmol, 10763 μL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 2661 μmol, 194 μL | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC | C23H17ClN4O3
